US06255276B1
325 g (0.7 mol) of (5-carboxypentyl)triphenylphosphonium bromide were dissolved in 1500 ml of tetrahydrofuran. After the addition of 180 g (1.6 mol) of potassium t-butylate in 700 ml of tetrahydrofuran the mixture was treated with 175 g (0.71 mol) of 9-hydroxy-2-decanone (70% purity). After usual work up 186 g of crude 14-hydroxy-7-methyl-pentadec-6-enoic acid were obtained. This product was dissolved in 400 ml of methanol and, after the addition of 5 ml of concentrated sulphuric acid, heated to reflux for 2 hours. After work up, bulb-tube distillation and chromatography 102 g (50%) of methyl 14-hydroxy-7-methyl- pentadec-6-enoate were obtained having the following characteristics:

reactant | (5-carboxypentyl)triphenylphosphonium bromide | 0.7 mol, 325 g | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 9-hydroxy-2-decanone | 0.71 mol, 175 g | OC(CCCCCCC(C)=O)C | C10H20O2
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 14-hydroxy-7-methyl-pentadec-6-enoic acid | 186 g | OC(CCCCCCC(=CCCCCC(=O)O)C)C | C16H30O3
